US04046716
A mixture of 192 g of α-ionone, 165.4 g of ethyl chloroacetate, 500 mg of phenothiazine and 100 ml of pyridine is treated with 81 g of sodium methylate within 30 minutes at -10° C. to -15° C. with the exclusion of moisture and oxygen from the air. After the addition of 100 ml of absolute ether, the mixture is stirred for 4 hours at -5° C. and treated with 400 ml of 15% methanolic sodium hydroxide while cooling. The mixture is stirred for 1 hour at 10° C., cooled to -30° C. and adjusted to a pH of about 4 by the addition of 600 ml of glacial acetic acid. After warming to room temperature, 1 liter of water is added and the mixture stirred again for 15 minutes (CO2 evolution). Extraction with hexane, washing the organic phase neutral, drying over anhydrous sodium sulphate and removal of the solvent under reduced pressure yields 190 g of a brown, liquid crude product which is subjected to fractional distillation in vacuo and produces 125 g of 2-methyl-4-(2,6,6-trimethyl-2-cyclohexenyl)-3-butenal; b.p. 0.15 = 90° C.; nD20 = 1.4880. Odour: woody, ionone-like, flowery.

reactant | α-ionone | 192 g | CC1=CCCC(C1/C=C/C(=O)C)(C)C | C13H20O
reactant | ethyl chloroacetate | 165.4 g | ClCC(=O)OCC | C4H7ClO2
reactant | sodium methylate | 81 g | C[O-].[Na+]
reactant | oxygen | O=O | O2
reactant | sodium hydroxide | 400 ml | [OH-].[Na+]
reactant | CO2 | C(=O)=O | CO2
catalyst | phenothiazine | 500 mg | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | water | 1 liter | O | H2O
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-methyl-4-(2,6,6-trimethyl-2-cyclohexenyl)-3-butenal | 125 g | CC(C=O)C=CC1C(=CCCC1(C)C)C | C14H22O
